US07605170B2
3-Phenoxyphenol (1.00 g, 5.4 mmol) was dissolved in MeCN (40 mL) and TFA (0.5 mL). N-Chlorosuccinimide (717 mg, 5.4 mmol) was added and the reaction stirred at ambient temperature for 48 h. Solvents were removed in vacuo to afford the crude product as an oil (2.15 g). 300 mg of this crude material was purified by HPLC to afford in order of elution 4-chloro-3-phenoxyphenol (68 mg, 0.31 mmol, 41%) M.S. (ESI) (m/z): 219,221 [M−H]−; and 6-chloro-3-phenoxyphenol (73 mg, 0.33 mmol, 44%) M.S. (ESI) (m/z): 219,221 [M−H]−.

reactant | 3-Phenoxyphenol | 5.4 mmol, 1.00 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | N-Chlorosuccinimide | 5.4 mmol, 717 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | MeCN | 40 mL | CC#N | C2H3N
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-chloro-3-phenoxyphenol | 0.31 mmol, 68 mg, 41% | ClC1=C(C=C(C=C1)O)OC1=CC=CC=C1 | C12H9ClO2
